Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-5.88892949304
[H:13].[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-3.55960821019
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2],5.11712388544
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],8.01876430244
[C:1]=[C:2]([O:3][C:4]=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:4][C:6]([H:7])([H:8])[H:9].[C:2](=[O:3])=[O:5],-1.87436716957
[C:2](=[O:5])=[C:7]([H:8])[C:9]([H:10])[H:11].[O:1]([C:3][H:4])[H:6]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.56550570998
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.68284658804
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])[H:8].[H:4],4.17677606962
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.97631872234
[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[C:3]([H:4])#[C:5][H:6].[O:1]=[O:2],-1.15246670254
[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.61081393069
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])[H:10],3.88247871809
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[O:8][H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][H:9],-6.00157707917
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.72178877963
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-2.00202755251
[H:1][C:2]1=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16],3.11809057925
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-7.325781071789999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.620443981359999
[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2](=[O:3])[C:13]([C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15],-0.556644871101
[H:1][C:2]#[C:3]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-2.92871639079
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2]#[C:3][H:4],4.17126130276
[H:1][O:2][C:3]([H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.18569811395
[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4][H:5])[C:10]([C:6]([H:7])[O:8][H:9])([H:11])[H:12],3.068836572
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.9102139518
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.90940370019
[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],1.18442414125
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.41618005741
